US07030128B2
2-Bromo-6-(isothiazol-4-yl)pyridine (0.27 g, 1.13 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.13 mmol) by the method of Example 1. Purification by chromatography on silica gel eluting with isohexane on a gradient of ethyl acetate (20-80%) and trituration with isohexane gave 3-[6-(isothiazol-4-yl)pyridin-2-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine (130 mg) as a pale yellow solid: δH (400 MHz, CDCl3) 7.41 (1H, d, J 7), 7.62 (1H, d, J 8), 7.78 (1H, d, J 8), 7.92 (1H, dd, J 8 and 8), 8.56 (1H, s), 9.12 (1H, s), 9.13 (1H, s), 10.45 (1H, d, J 7); m/z (ES+) 347 (M++H).

reactant | 2-Bromo-6-(isothiazol-4-yl)pyridine | 1.13 mmol, 0.27 g | BrC1=NC(=CC=C1)C=1C=NSC1 | C8H5BrN2S
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.13 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-[6-(isothiazol-4-yl)pyridin-2-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | 130 mg | S1N=CC(=C1)C1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C15H8F3N5S
